US04490369
(a) 1-(7,8-Dihydroxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane
8.9 gm (0.03 mol) of 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane were dissolved in 100 ml of methylene chloride; the solution was admixed at -60° C. with 2.1 ml of boron tribromide. After removing the cooling bath the reaction temperature rose to 20° C. and at this temperature the reaction mixture was stirred for 10 hours. The resulting resinous precipitate was made to crystallize by addition of 100 ml of water and subsequent stirring for one hour. The crystalline precipitate was suction-filtered off and washed with water and methylene chloride. For purification the crystalline product was stirred with acetone and suction-filtered off.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | 0.03 mol, 8.9 gm | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | boron tribromide | 2.1 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(7,8-Dihydroxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | OC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1O | C13H16ClNO3
